Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Penicillins / Diflucan / Zantac / Norvir / Oxycodone
 
Attending: ___.
 
Chief Complaint:
nausea, Abdominal Pain
 
Major Surgical or Invasive Procedure:
none
 
History of Present Illness:
Date: ___ 
Time: 06:05
PCP: ___: 
___ ___ 

 
___ year old woman, HIV+, AIDS (CD4 count 44 cells/mm3 5% ___ 
and VL >105,000 copies/mL in ___, HCV+ without previous 
evidence of cirrhosis with normal LFTs, who p/w nausea and 
abdominal pain since ___ AM yesterday. Pain is in RUQ quadrant, 
constant. No vomiting. Not eating due to nausea. She reports one 
formed stool that was a green color. No BRBPR, no melena. She 
reports recently completing an antibiotics course for UTI 
yesterday, but her symptoms of "bladder pressure" was not fully 
resolved. Also reports global itch for past few days. 
 
In ER: 
VS: 98.5 67 127/75 20 100%RA; ___ pain
Studies: transaminitis, 
Fluids given: 1L NS
Meds given: ondansetron 2 mg IV x 1, morphine sulfate 4mg IV x 
2, keflex ___ mg po at 04:45
Consults called: hepatology
VS prior to transfer to the floor: 98.2 61 111/63 16 97%RA

 
Review of Systems:  
(+) Per HPI  
(-) Denies fever, chills, night sweats, recent weight loss or 
gain. Denies visual changes, headache, sinus tenderness, 
rhinorrhea, congestion or sore throat. Denies chest pain or 
tightness, palpitations, orthopnea, dyspnea on exertion. Denies 
cough, shortness of breath, wheezes or pleuritic pain. Denies 
vomiting, diarrhea, constipation, BRBPR, melena. Denies 
arthralgias or myalgias. Denies rashes. No numbness/tingling or 
muscle weakness in extremities. No feelings of depression or 
anxiety. All other review of systems negative.
 
Past Medical History:
- HIV/AIDS - followed by ___. ___ CD4 44, VL 76,300
- Hep C, no biopsy, untreated
- Crack cocaine use, 2 times per month (last usage ___ days ago)
- Depression 
- Remote hx IVDU in the 1980s (crack and heroin). 
- Duodenal adenoma per EGD ___ 
- Type 2 Diabetes, diet controlled
- Vulvar condyloma s/p laser procedures
 
Social History:
___
Family History:
Mother - breast cancer
Father - hypertension
 
Physical ___:
VS: 98.9 128/86 62 20 97%RA, glu 123; ___ pain
GEN: Alert and oriented to person, place and situation; no 
apperent distress
HEENT: no trauma, pupils round and reactive to light and 
accomodation, no LAD, oropharynx clear, no exudates
CV: regular rate and rhythm, no murmurs/gallops/rubs
PULM: clear to auscultation bilaterally, no 
rales/crackles/rhonchi
GI: soft, non-tender, non-distended; no guarding/rebound
EXT: no clubbing/cyanosis/edema; 2+ distal pulses; peripheral IV 
present
NEURO: CN II-XII intact, ___ motor function globally
DERM: no lesions appreciated
 
 
 
Pertinent Results:
___ 10:10PM URINE  COLOR-Yellow APPEAR-Hazy SP ___
___ 10:10PM URINE  BLOOD-LG NITRITE-NEG PROTEIN-75 
GLUCOSE-NEG KETONE-NEG BILIRUBIN-NEG UROBILNGN-NEG PH-7.0 
LEUK-MOD
___ 10:10PM URINE  ___ BACTERIA-MOD 
YEAST-NONE ___ 10:10PM URINE  WBCCLUMP-FEW
___ 07:15PM   GLUCOSE-101* UREA N-8 CREAT-1.1 SODIUM-140 
POTASSIUM-4.3 CHLORIDE-101 TOTAL CO2-31 ANION GAP-12
___ 07:15PM   ALT(SGPT)-19 AST(SGOT)-28 ALK PHOS-163* TOT 
BILI-3.5* DIR BILI-0.7* INDIR BIL-2.8
___ 07:15PM   LIPASE-20
___ 07:15PM   cTropnT-<0.01
___ 07:15PM   ALBUMIN-4.5
___ 07:15PM   ACETMNPHN-NEG
___ 07:15PM   WBC-5.0 RBC-4.72 HGB-13.6 HCT-39.4 MCV-84 
MCH-28.9 MCHC-34.5 RDW-14.2
___ 07:15PM   NEUTS-55.8 ___ MONOS-5.4 EOS-4.2* 
BASOS-3.2*
___ 07:15PM   PLT COUNT-417
___ 07:00PM URINE  COLOR-Yellow APPEAR-Hazy SP ___
___ 07:00PM URINE  BLOOD-LG NITRITE-NEG PROTEIN-25 
GLUCOSE-NEG KETONE-NEG BILIRUBIN-NEG UROBILNGN-NEG PH-7.0 
LEUK-MOD
___ 07:00PM URINE  ___ BACTERIA-MOD YEAST-NONE 
___

EKG ___
Sinus rhythm. Modest low amplitude right precordial lead T wave 
changes are suggested by baseline artifact makes assessment 
difficult. Since the previous tracing of ___ modest right 
precordial lead T wave changes may be present but baseline 
artifact makes comparison difficult. 
  Intervals Axes 
Rate PR QRS QT/QTc P QRS T 
67 148 92 346/358 53 -13 52 
 

LIVER OR GALLBLADDER US (SINGLE ORGAN) Study Date of ___ 
8:29 ___ 
IMPRESSION: 
1. Normal liver. 
2. Normal gallbladder, without evidence of acute cholecystitis. 
 

CHEST (PA & LAT) Study Date of ___ 8:48 ___ 
IMPRESSION: No acute cardiopulmonary pathology. 
 

CT ABDOMEN W/CONTRAST Study Date of ___ 9:35 ___ 
IMPRESSION:
1. Heterogeneously enhancing irregular lesion in the left 
superolateral 
bladder wall. Perivesical fat stranding, with loss of the normal 
fat plane 
between the sigmoid colon and the urinary bladder. These 
findings are 
concerning for bladder mass with superimposed acute infection. 
Recommended 
followup evaluation with cystoscope after resolution of acute 
symptoms. 
  
2. Right lung base pulmonary nodule, unchanged since the earlier 
study of 
___ and does not need further evaluation. 
 
Brief Hospital Course:
___ year old Female h/o HIV/AIDS, HCV, p/w nausea, found to have 
elevated eosinophils, basophils, transaminitis, alk phos and 
direct bilirubin

1. Hyperbilirubinemia: 
- This is most likely due to her atazanivir, which is classic 
for this, although could be due to ___ syndrome.
- HAART was initially held, but restarted

2. Elevated AFP: 
- Noted on lab work from ___. Pt with HCV. RUQ u/s WNL. 
Appreciate hepatology recs.

3. Nausea:
- This was treated initially with NPO,IVF, ondansetron 4 mg IV 
q8h prn.  She improved and tolerated rapidly advancing her diet 
and was eating a full diet at discharge.  

4. Pruritis: 
Likely due to hyperbilirubinemia. Treated with hydroxyzine 10 mg 
po q4h prn.
 
5. Eosinophilia / basophilia: 
- Appears to be chronic - ? med related.  For possibility of 
parasite infection, stool studies were sent which were negative 
at time of discharge

6. Urinary tract infection: 
- Ucx grew strep bovis and gardnerella vaginalis from last 
admit. She received Cipro 500 mg po q12h pending results of a 
uring culture, which was negative. ID consult recommended that 
we stop the cipro. Of note on her CT was a concerning mass in 
the bladder, which was concerning a nidus for infection. She was 
given pyridium for symptom management.

7. Abdominal Pain: 
Her symptoms quickly improved with pain meds given in the ED. 
Will treat constipation with colace 100 mg po BID and UTI as 
above. 

8. HIV, AIDS: 
- CD4 count 44 cells/mm3 5% ___ and VL >105,000 copies/mL in 
___. Now on atazanavir 300 mg 2 capsules po daily and 
emtricitabine-tenofovir (Truvada) 200 mg - 300 mg po daily for 
the past ___ months. Held HAART therapy in the hospital 
initially, but with ID consult this was restarted.
- Prophylaxis was started per ID consult with zithromax and 
dapsone

9. Bladder Mass
- Letter sent to PCP to arrange outpatient GU followup by mail 
and email
- Urine cytology sent and was pending at time of discharge
 
Medications on Admission:
___ 300 mg 2 capsules po daily
Truvada 200 mg-300 mg 1 po daily
 
Discharge Medications:
1. Reyataz 300 mg Capsule Sig: Two (2) Capsule PO once a day.  
2. Truvada 200-300 mg Tablet Sig: One (1) Tablet PO once a day.  

3. phenazopyridine 100 mg Tablet Sig: One (1) Tablet PO TID (3 
times a day) for 3 days.
Disp:*9 Tablet(s)* Refills:*0*
4. dapsone 100 mg Tablet Sig: One (1) Tablet PO DAILY (Daily).
Disp:*30 Tablet(s)* Refills:*2*
5. azithromycin 600 mg Tablet Sig: Two (2) Tablet PO Q24H (every 
24 hours).
Disp:*60 Tablet(s)* Refills:*2*

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Abdominal Pain
Mass - Bladder
Transaminitis 
HIV disease
Hepatitis C.
 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.
 
Discharge Instructions:
You were admitted with nausea and pruritis (itching).  You were 
found to have an elevated bilirubin.  You were initially given 
fluids and food withheld but you were able to tolerate food 
later on the first hospital day.  You were noted to have an 
abnormally elevated bilirubin and were seen by the liver 
service, who felt that this was not due to a worrisome 
condition, but rather a normal effect of your atazanavir.  

During your workup a small mass was seen in your bladder, which 
will need evaluation by urology. This will need to get set up as 
an outpatient, and either Dr. ___ Dr. ___ assist you 
in this.
 
Followup Instructions:
___